US06329400B1
To a solution of (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid (3 g, 12.99 mmol) in DMF (25 mL) is added EDC (2.73 g, 14.29 mmol) and HOBT (1.93 g, 14.29 mmol). The resulting solution is stirred at 25° C. for 0.5 h and 3-aminopyridine (1.83 g, 19.48 mmol) is; added and the reaction is heated to 50° C. for 18 h. The mixture is concentrated, diluted with EtOAc (50 mL), and washed with saturated aqueous sodium bicarbonate. The organic layer is dried over anhydrous magnesium sulfate and concentrated in vacuo to provide (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid 3-pyridylamide as a foam (1.6 g, 40% yield).

reactant | (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid | 12.99 mmol, 3 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)(C)C | C11H21NO4
reactant | EDC | 14.29 mmol, 2.73 g
reactant | HOBT | 14.29 mmol, 1.93 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-aminopyridine | 19.48 mmol, 1.83 g | NC=1C=NC=CC1 | C5H6N2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid 3-pyridylamide | 1.6 g, 40% yield | N1=CC(=CC=C1)NC([C@H](C(C)(C)C)NC(=O)OC(C)(C)C)=O | C16H25N3O3
